US07592365B2
0.210 g (0.56 mmol) of 2-(3-cyclopentylpropionylamino)-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide is added at a temperature in the region of 25° C. to a suspension of 0.055 g (0.0051 mmol) of 10% palladium on carbon in 25 cm3 of methanol. After hydrogenating for 5 hours in an autoclave under 2 bar of hydrogen, at a temperature in the region of 25° C., the reaction mixture is filtered, the catalyst is rinsed with twice 10 cm3 of methanol and then the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give 0.151 g of 2-(3-cyclopentylpropionylamino)-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide, in the form of a brown powder. 1H NMR (400 MHz, (CD3)2SO, —δ in ppm) 1.09 (m, 2H); from 1.39 to 1.84 (m, 9H); 2.39 (t, J=8.0 Hz, 2H); 5.14 (broad s, 2H); from 6.20 to 7.50 (very broad m, 2H); 6.23 (d, J=2.5 Hz, 1H); 6.59 (d, J=8.5 Hz, 2H); 6.99 (d, J=8.5 Hz, 2H); 10.9 (broad s, 1H); 11.3 (broad s, 1H).

reactant | 2-(3-cyclopentylpropionylamino)-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide | 0.56 mmol, 0.210 g | C1(CCCC1)CCC(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C19H22N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.0051 mmol, 0.055 g | [Pd] | Pd
solvent | methanol | 25 cm3 | CO | CH4O
product | 2-(3-cyclopentylpropionylamino)-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide | 0.151 g | C1(CCCC1)CCC(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)N | C19H24N4O2
